US06653471B2
A 10 mL aliquot DMF is cooled to 5° C. To this is added 2.26 mL (0.024 mol) of phosphorous oxychloride. The mixture is warmed to room temperature, stirred for 15 minutes and cooked to 5° C. To this solution is added dropwise a solution 3.2 g (0.08 mol) of 4-(benzyloxycarbonylamino-6-methoxy-pyridin-2-yl)-1H-pyrrole-3-carboxylic acid ethyl ester dissolved in 15 mL of DMF. The reaction mixture is warmed to room temperature and stirred for 3 hours. The reaction mixture is carefully poured into 100 mL of saturated sodium bicarbonate. The pH is adjusted to 8 with solid K2CO3 and the mixture extracted with ethyl acetate. The organic extracts are dried (Na2SO4) and evaporated. The residue is chromatographed on 150 g of silica gel using ethyl acetate followed by 10/1 chloroform/methanol as the eluant. Appropriate fractions are combined to yield 1.46 grams of 8-methoxy-3H-pyrrolo [2,3-c]quinoline-1-carboxylic acid ethyl ester. 1H NMR (CDCl3) δ9.10 (s, 1H), 8.35 (d, 1H), 8.10 (s, 1H, 7.2 (s, 1H), 7.05 (d, 1H), 4.4 (q, 2H), 4.10 (s, 3H), 1.40 (t, 3H). Mass spectrum: m/e=260 (p+1). TLC (ethyl acetate) Rf=0.3.

reactant | phosphorous oxychloride | 0.024 mol, 2.26 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-(benzyloxycarbonylamino-6-methoxy-pyridin-2-yl)-1H-pyrrole-3-carboxylic acid ethyl ester | 0.08 mol, 3.2 g | C(C)OC(=O)C1=CNC=C1C1=NC(=CC=C1NC(=O)OCC1=CC=CC=C1)OC | C21H21N3O5
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 8-methoxy-3H-pyrrolo [2,3-c]quinoline-1-carboxylic acid ethyl ester | 1.46 grams | C(C)OC(=O)C1=CNC=2C=NC=3C=CC(=CC3C21)OC | C15H14N2O3
